US07109225B2
In analogy to the procedure described in example 46 d], (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid as colorless liquid.

reactant | (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C(C)(C)C)OC)OCC)=O | C22H31NO6
reactant | LiOH | [Li+].[OH-]
product | (S)-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methoxy-phenyl]-2-ethoxy-propionic acid | C(C)(C)(C)C=1OC(=C(N1)COC1=CC(=C(C=C1)C[C@@H](C(=O)O)OCC)OC)C | C21H29NO6
